US06090797
[7-(4Methoxyphenyl)-4,5,6,7-tetrahydrothieno[2,3-c]pyridin-6-yi]-(4-methoxy-phenyl)-methanone
7-(4-methoxyphenyl)-4,5,6,7-tetrahydrothieno[2,3-c]pyridine (80 mg) in toluene (10 ml), 4-methoxybenzoic acid (55 mg), EDAC (94 mg) and HOBt (44 mg) were mixed in DMF (3 ml). The mixture was stirred overnight, evaporated to dryness and dissolved in ethyl acetate (10 ml).

reactant | 7-(4-methoxyphenyl)-4,5,6,7-tetrahydrothieno[2,3-c]pyridine | 80 mg | COC1=CC=C(C=C1)C1NCCC2=C1SC=C2 | C14H15NOS
reactant | 4-methoxybenzoic acid | 55 mg | COC1=CC=C(C(=O)O)C=C1 | C8H8O3
reactant | EDAC | 94 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 44 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | [7-(4Methoxyphenyl)-4,5,6,7-tetrahydrothieno[2,3-c]pyridin-6-yi]-(4-methoxy-phenyl)-methanone | COC1=CC=C(C=C1)C1N(CCC2=C1SC=C2)C(=O)C2=CC=C(C=C2)OC | C22H21NO3S
